US05495020
Employing ethyl 2-(2-methyl-3,4,5,6-tetrafluorobenzoyl)-3-ethoxyacrylate (10.0 g) and ethylamine gas, the procedure of Reference Example 21 is repeated to give ethyl 2-(2-methyl-3,4,5,6-tetrafluorobenzoyl)-3-ethylaminoacrylate (9.0 g, white crystals), which is then treated with 60% sodium hydride (1.30 g) as in REFERENCE EXAMPLE 22 to give ethyl 1-ethyl-5-methyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate (6.76 g), as pale yellow needles (recrystallized from dichloromethane--n-hexane), m.p. 197°-198° C.

reactant | ethyl 2-(2-methyl-3,4,5,6-tetrafluorobenzoyl)-3-ethoxyacrylate | 10.0 g | CC1=C(C(=O)C(C(=O)OCC)=COCC)C(=C(C(=C1F)F)F)F | C15H14F4O4
reactant | ethylamine | C(C)N | C2H7N
product | ethyl 2-(2-methyl-3,4,5,6-tetrafluorobenzoyl)-3-ethylaminoacrylate | 9.0 g | CC1=C(C(=O)C(C(=O)OCC)=CNCC)C(=C(C(=C1F)F)F)F | C15H15F4NO3
